US05840922
3-amino-8-fluorocoumarin
A solution of 3-acetylamino-8-fluorocoumarin (3.00 g, 0.014 mole) in concentrated sulfuric acid (2.65 g, 0.027 mole) was heated at 75°-80° C. for 1 hour. The cooled solution was poured onto an ice-water mixture and it was alkalized with a saturated NaHCO3 water solution up to pH=6 and subsequently left to precipitate at +4° C. The obtained 3-amino-8-fluorocoumarin was recrystallized from 50% ethanol (1.63 g, 67%). M.p.: 173°-174° C.

reactant | 3-acetylamino-8-fluorocoumarin | 0.014 mole, 3.00 g | C(C)(=O)NC=1C(OC2=C(C=CC=C2C1)F)=O | C11H8FNO3
reactant | sulfuric acid | 0.027 mole, 2.65 g | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 water | C(=O)(O)[O-].[Na+].O
product | 3-amino-8-fluorocoumarin | NC=1C(OC2=C(C=CC=C2C1)F)=O | C9H6FNO2
